US03944531
2-bromo-6-methyl-heptane was reacted with p-hydroxy-acetophenone to obtain p-[(1,5-dimethyl-hexyl)-oxy]-acetophenone (boiling point = 200°C/1.0 mmHg);

reactant | 2-bromo-6-methyl-heptane | BrC(C)CCCC(C)C | C8H17Br
reactant | p-hydroxy-acetophenone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
product | p-[(1,5-dimethyl-hexyl)-oxy]-acetophenone | CC(CCCC(C)C)OC1=CC=C(C=C1)C(C)=O | C16H24O2
